US07307099B2
4-(1-benzenesulfonyl-5-fluoro-1H-indol-2-yl)-4-hydroxy-cyclohexa-2,5-dienone
The title compound was prepared from 4,4-dimethoxy-cyclohexa-2,5-dienone and 1-benzenesulfonyl-5-fluoro-1H-indole, according to Method C, described above. Yield 21%; mp 166-167° C.; 1H NMR (CDCl3) δ 8.03-8.09 (m, 1H), 7.94 (d, J=8 Hz, 2H), 7.51-7.70 (m, 5H), 7.12-7.20 (m, 2H), 6.86 (s, 1H), 6.42 (d, J=10 Hz, 2H), 5.49 (s, 1H); 13C NMR (CDCl3) δ 185.1, 162.4, 158.5, 147.6, 143.0, 137.7, 134.8, 129.9, 129.8, 129.7, 128.2, 126.9, 116.9, 116.8, 114.8, 114.4, 113.6, 107.8, 107.4, 67.9; MS (AP+) m/z 384.04 (M++1).

reactant | 4,4-dimethoxy-cyclohexa-2,5-dienone | COC1(C=CC(C=C1)=O)OC | C8H10O3
reactant | 1-benzenesulfonyl-5-fluoro-1H-indole | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC(=CC=C12)F | C14H10FNO2S
product | 4-(1-benzenesulfonyl-5-fluoro-1H-indol-2-yl)-4-hydroxy-cyclohexa-2,5-dienone | Yield 21% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=CC(=CC=C12)F)C1(C=CC(C=C1)=O)O | C20H14FNO4S
